US05650524
c) (R)-8-Fluoro-5-methoxy-3-(N-3-pentyl-N-n-propylamino)chroman hydrochloride
(R)-8-Fluoro-5-methoxy-3-(N-3-pentyl-N-n-propylamino)chroman (4.59 g, 14.8 mmol) was dissolved in ether. HCl in ether was added to precipitate the HCl-salt, and gave after drying 4.59 g of (R)-8-fluoro-5-methoxy-3-(N-3-pentyl-N-n-propylamino)chroman hydrochloride as a white powder. Mp. 30°-50° C. (sinters).

reactant | (R)-8-Fluoro-5-methoxy-3-(N-3-pentyl-N-n-propylamino)chroman | 14.8 mmol, 4.59 g | FC=1C=CC(=C2C[C@H](COC12)N(CCC)C(CC)CC)OC | C18H28FNO2
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | (R)-8-Fluoro-5-methoxy-3-(N-3-pentyl-N-n-propylamino)chroman hydrochloride | Cl.FC=1C=CC(=C2C[C@H](COC12)N(CCC)C(CC)CC)OC | InChI=1S/C18H28FNO2.ClH/c1-5-10-20(13(6-2)7-3)14-11-15-17(21-4)9-8-16(19)18(15)22-12-14;/h8-9,13-14H,5-7,10-12H2,1-4H3;1H/t14-;/m1./s1
